US06303600B1
5-bromo-2-methoxyaniline
A stirred mixture of 4-bromo-2-nitroanisole (98.56 g) and iron powder (113.7 g) in ethanol (1.51) was heated to reflux and treated dropwise with hydrochloric acid (350 ml, 0.5N) over 1 hour. After refluxing for a further 3 hours the reaction mixture was cooled to room temperature then filtered through hyflosupercel. The filtrate was evaporated and the residue was treated with saturated sodium bicarbonate solution (21 ) then filtered. The solid was washed with water then recrystallised from cyclohexane to give the title compound (61.98 g) as a pale brown solid, m.p. 93-93° C.

reactant | 4-bromo-2-nitroanisole | 98.56 g | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | hydrochloric acid | 0.5N, 350 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | iron | 113.7 g | [Fe] | Fe
product | 5-bromo-2-methoxyaniline | 61.98 g | BrC=1C=CC(=C(N)C1)OC | C7H8BrNO
